US08304546B2
Meldrum's acid (2.59 g, 17.9 mmol) was added to methyl orthoformate (16 ml), and the mixture was stirred for 2 hours while heating under reflux. 3-Propoxynaphthalen-2-ylamine (2.5 g, 12.4 mmol) was added thereto, and the resulting mixture was stirred for 4 hours while heating under reflux. The reaction mixture was cooled to room temperature and then concentrated to dryness under reduced pressure to recrystallize the residue from methanol, giving a pale brown powder of 2,2-dimethyl-5-[(3-propoxynaphthalen-2-ylamino) methylene][1,3]dioxane-4,6-dione (4.19 g, yield: 95%).

reactant | Meldrum's acid | 17.9 mmol, 2.59 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | methyl orthoformate | 16 ml | C(OC)([O-])[O-]
reactant | 3-Propoxynaphthalen-2-ylamine | 12.4 mmol, 2.5 g | C(CC)OC=1C(=CC2=CC=CC=C2C1)N | C13H15NO
product | 2,2-dimethyl-5-[(3-propoxynaphthalen-2-ylamino) methylene][1,3]dioxane-4,6-dione | 4.19 g, yield: 95% | CC1(OC(C(C(O1)=O)=CNC1=CC2=CC=CC=C2C=C1OCCC)=O)C | C20H21NO5
